US04454131
Di-isopropyl 3-methyl-4-butane sulfonyloxy-2,5-thiophene-dicarboxylate (Compound No. 315)
A mixture of 2.3 g (8 mmol) of di-isopropyl 3-methyl-4-hydroxy-2,5-thiophene-dicarboxylate, 30 ml of dioxane, 60 ml of acetone, 1.6 g (120 mmol) of anhydrous potassium carbonate and 1.6 g (10 mmol) of butane-sulfonyl chloride was refluxed for about 10 hours. The mixture was then freed from dioxane and acetone by distillation in vacuo and then added with ethylether, washed with water, and dried with anhydrous magnessium sulfate. The solvent was removed by distillation and then recrystallization was effected from methanol to give 2.8 g (86%) of the desired white crystalline compound. m.p. 59°-61° C.

reactant | di-isopropyl 3-methyl-4-hydroxy-2,5-thiophene-dicarboxylate | 8 mmol, 2.3 g | CC1=C(SC(=C1O)C(=O)OC(C)C)C(=O)OC(C)C | C13H18O5S
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
reactant | potassium carbonate | 120 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | butane-sulfonyl chloride | 10 mmol, 1.6 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | Di-isopropyl 3-methyl-4-butane sulfonyloxy-2,5-thiophene-dicarboxylate | CC1=C(SC(=C1OS(=O)(=O)CCCC)C(=O)OC(C)C)C(=O)OC(C)C | C17H26O7S2
